US07705025B2
4-[4-(1-Acetylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid
4-[4-(1-Acetylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester (0.13 g, 0.39 mmol) is dissolved in 2 mL tetrahydrofuran and 2 mL ethanol. 2N sodium hydroxide (1.17 mmol, 0.587 mL) is added and the mixture is heated to reflux for 1 hour. The reaction is concentrated to dryness and the resulting residue is dissolved in 95:5 dichloromethane/isopropanol layered with 0.1N HCl. The organics are separated and dried over sodium sulfate, filtered, and concentrated to give 0.106 g of the pure titled compound. MS (m/e) 303.2 (M−H)−

reactant | 4-[4-(1-Acetylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid ethyl ester | 0.39 mmol, 0.13 g | C(C)OC(C1=CC=C(C=C1)C=1SC=C(N1)C(C)(C)NC(C)=O)=O | C17H20N2O3S
reactant | sodium hydroxide | 1.17 mmol, 2N, 0.587 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-[4-(1-Acetylamino-1-methyl-ethyl)-thiazol-2-yl]-benzoic acid | 0.106 g | C(C)(=O)NC(C)(C)C=1N=C(SC1)C1=CC=C(C(=O)O)C=C1 | C15H16N2O3S
